US04021536
Magnesium glycinate was prepared by reacting 1.8 g. of basic magnesium carbonate (26.1% Mg) with 3 g. of glycine in 30 g. of water, while agitating at 75° C. for one half hour. To the cooled slurry was added 50 g. of zirconyl nitrate solution [ZrO(NO3)2 ; 4.27% Zr] with agitation. The resultant clear solution had a pH of 3.2. The product was oven-dried at 55° C. under a vacuum of 35 cm. of Hg and found to contain 22.8% Zr, 4.79% Mg and 30.6% glycine.

reactant | magnesium carbonate | C([O-])([O-])=O.[Mg+2]
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | nitrate | [N+](=O)([O-])[O-]
solvent | water | O | H2O
product | Magnesium glycinate | NCC(=O)[O-].[Mg+2].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Mg/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
